US04343815
A reaction vessel was charged with 12.16 g. (0.5 g.atom) of magnesium chips and 15 c.c. of a solution containing 60.3 g. (0.5 mole) 1-chloro-3,3-dimethylbutane dissolved in 200 c.c. of tetrahydrofuran. A nitrogen atmosphere was established within the vessel. The reaction was initiated by the addition of a few drops of ethylene dibromide, whereupon the remaining portion of the aforementioned tetrahydrofuran solution was added over a period of 1.5 hours. External heating was applied to maintain the reaction mixture at the boiling point. Heating was continued for 1 hour following completion of the addition, at which time the liquid phase was separated from the unreacted magnesium (0.32 g.) by decantation. A portion of this liquid phase containing 0.44 mole of 3,3-dimethylbutylmagnesium chloride was charged into a reaction vessel containing a nitrogen atmosphere. A solution of 31.2 g. (0.13 mole) of methyltin trichloride dissolved in 100 c.c. benzene was gradually added over 0.33 hours to the stirred contents of the reaction vessel. External cooling was applied as required to maintain the reaction mixture at 40° C. Following completion of the addition the resultant mixture was stirred for about 16 hours at ambient temperature, after which the contents of the reaction vessel were heated at the boiling point for 1 hour, then hydrolyzed using a solution of citric acid (50 g.) in 250 c.c. water. The organic phase was then separated, dried using a portion of anhydrous magnesium sulfate and the organic solvents removed under reduced pressure while the mixture was maintained at a temperature of about 40° C. The resultant colorless oil, obtained in 97% yield, was purified by combining a 35 g. portion of the oil with methanol, cooling the mixture to -20° C. and triturating the semi-solid mass. The white solid was isolated and recrystallized using a 60/40 volume ratio mixture of methanol/ethanol to yield methyl tris(3,3-dimethylbutyl)tin in 56% yield, based on starting materials.

reactant | magnesium | 0.5 g | [Mg] | Mg
reactant | 1-chloro-3,3-dimethylbutane | 0.5 mole | ClCCC(C)(C)C | C6H13Cl
reactant | 3,3-dimethylbutylmagnesium chloride | 0.44 mole | CC(CC[Mg]Cl)(C)C
reactant | methyltin trichloride | 0.13 mole | C[Sn](Cl)(Cl)Cl
reactant | citric acid | 50 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | ethylene dibromide | a few drops | C(CBr)Br | C2H4Br2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl tris(3,3-dimethylbutyl)tin | 56% yield | C[Sn](CCC(C)(C)C)(CCC(C)(C)C)CCC(C)(C)C | InChI=1S/3C6H13.CH3.Sn/c3*1-5-6(2,3)4;;/h3*1,5H2,2-4H3;1H3;
